US07429665B2
2-((4-(2-methyl-5-(pyridin-4-yl)-2H-1,2,3-triazol-4-yl)phenoxy)methyl)quinoline
A mixture of 4-(2-methyl-5-(pyridin-4-yl)-2H-1,2,3-triazol-4-yl)phenol (80 mg, 0.32 mmol), 2-(chloromethyl)quinoline hydrochloride (71 mg, 0.33 mg), and cesium carbonate (414 mg, 1.27 mmol) in dimethylformamide was heated at 65° C. for 20 h, filtered, the filtrate concentrated and chromatographed on silica eluted with ethyl acetate-hexanes providing material containing starting phenol. This was dissolved in ethyl acetate, washed with aqueous NaOH, dried and concentrated giving a colorless solid (100 mg, 80%). 1H NMR (CDCl3, 400 mHz) δ 8.56 (d, 2H, J=6.2 Hz), 8.24 (d,1H, J=8.3 Hz), 8.12 (d, 1H, J=8.3 Hz), 7.85 (d, 1H, J=8.3 Hz), 7.75 (ddd, 1H, J=8.5, 7, 1.6 Hz), 7.70 (d, 1H, J=8.7 Hz), 7.65 (d, 2H, J=6.2 Hz), 7.57 (m, 1H), 7.41 (m, 2H), 7.08 (m, 2H), 5.45 (s, 2H), 4.27 (s, 3H). MS (AP+) m/e 394 (MH+).

reactant | 4-(2-methyl-5-(pyridin-4-yl)-2H-1,2,3-triazol-4-yl)phenol | 0.32 mmol, 80 mg | CN1N=C(C(=N1)C1=CC=C(C=C1)O)C1=CC=NC=C1 | C14H12N4O
reactant | 2-(chloromethyl)quinoline hydrochloride | 71 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | cesium carbonate | 1.27 mmol, 414 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-((4-(2-methyl-5-(pyridin-4-yl)-2H-1,2,3-triazol-4-yl)phenoxy)methyl)quinoline | 100 mg, 80% | CN1N=C(C(=N1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C1=CC=NC=C1 | C24H19N5O
